* source PROIECTTCAD
Q_Q1         IS N00262 N00254 Q2N2907
Q_Q2         N00262 N00262 N00258 Q2N2907
R_R1         N00258 N00230  1k TC=0,0 
R_R2         N00254 N00230  1k TC=0,0 
R_Rref         0 N00262  107k TC=0,0 
R_R4         0 IS  {Rp} TC=0,0 
V_V1         N00230 0 18Vdc
.PARAM  rp=50k
