* source PROIECTTCAD
V_V1         VCC_ARROW 0 18Vdc
R_R1         N00676 VCC_ARROW R_R1 1k TC=0,0 
.model        R_R1 RES R=1 DEV=0.5% TC1=0 TC2=0
Q_Q1         SENZOR N00682 N00670 Q2N2907
R_R2         N00670 VCC_ARROW R_R2 1k TC=0,0 
.model        R_R2 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R3         0 N00682 R_R3 107k TC=0,0 
.model        R_R3 RES R=1 DEV=0.5% TC1=0 TC2=0
R_Rs         0 SENZOR R_Rs {Rp} TC=0,0 
.model        R_Rs RES R=1 DEV=0.5% TC1=0 TC2=0
Q_Q2         N00682 N00682 N00676 Q2N2907
V_V2         0 VCC_WAVE 18Vdc
X_U1A         SENZOR N01633 VCC_ARROW VCC_WAVE CO TL082
X_U1B         N02472 N02359 VCC_ARROW VCC_WAVE N01932 TL082
R_R4         N01633 VCC_ARROW R_R4 15.8k TC=0,0 
.model        R_R4 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R5         0 N01633 R_R5 37.8k TC=0,0 
.model        R_R5 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R6         CO N01633 R_R6 10.5k TC=0,0 
.model        R_R6 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R7         VCC_ARROW N02359 R_R7 6.04k TC=0,0 
.model        R_R7 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R8         N02359 0 R_R8 4.37k TC=0,0 
.model        R_R8 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R9         N01932 N02491 R_R9 150 TC=0,0 
.model        R_R9 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R10         CO N02472 R_R10 3.4k TC=0,0 
.model        R_R10 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R11         N02472 N02491 R_R11 10k TC=0,0 
.model        R_R11 RES R=1 DEV=0.5% TC1=0 TC2=0
D_D1         N02987 N02491 D02CZ16 
D_D2         N02987 0 D02CZ16 
R_R12         N02943 N02491  30k TC=0,0 
R_R13         0 N02943  3k TC=0,0 
R_R14         N03002 VCC_ARROW  1.6k TC=0,0 
R_R15         IES VCC_ARROW  500 TC=0,0 
D_D3         N03002 IES LS_5436-TYP 
D_D4         IES VCC_ARROW D1N4001 
Q_Q3         IES N02943 N02939 BC547A 
Q_Q4         IES N02939 0 BD241A
.PARAM  rp=50k
